US08748613B2
To a solution of methyl 2-bromo-2-p-tolylacetate (2.50 g, 10.3 mmol) in acetonitrile, was added piperidine (2.06 ml, 20.6 mmol) and the mixture was reacted for 2 hours at room temperature. The solvent was evaporated and the resulting crude was portioned between water and EtOAc. The aqueous phase was extracted with EtOAc, the organic phases were combined, dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (petroleum ether/EtOAc=9/1) to obtain methyl 2-(piperidin-1-yl)-2-p-tolylacetate (273 mg, 21% yield) as a colourless oil.

reactant | methyl 2-bromo-2-p-tolylacetate | 10.3 mmol, 2.50 g | BrC(C(=O)OC)C1=CC=C(C=C1)C | C10H11BrO2
reactant | piperidine | 20.6 mmol, 2.06 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 2-(piperidin-1-yl)-2-p-tolylacetate | 273 mg, 21% yield | N1(CCCCC1)C(C(=O)OC)C1=CC=C(C=C1)C | C15H21NO2
